US07504408B2
i) Preparation of 1-[(4-methylphenyl)sulfonyl]-1H-pyrazole:
To a solution of pyrazole (2 g, 29.0 mmol), dichloromethane (20 ml) and pyridine (5 ml) was added 4 toluene sulphonyl chloride (6.89 g, 36 mmol) and the reaction mixture stirred at ambient temperature for 1 hour. The reaction mixture was partitioned between dichlormethane and an aqueous solution of sodium bicarbonate. The organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure. The residue as purified by flash chromatography on silica eluting with a mixture of 70-100% dichloromethane in hexane and then 10% ethyl acetate in dichloromethane to give the product as a white solid (4.9 g, 76%). NMR Spectrum: (CDCl3) 2.43 (s, 3H), 6.39 (m, 1H), 7.34 (d, 2H), 7.72 (d, 1H), 7.89 (d, 2H), 8.10 (d, 1H). Mass Spectrum: M+H+ 223 and M+H− 221.

reactant | pyrazole | 29.0 mmol, 2 g | N1N=CC=C1 | C3H4N2
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | toluene sulphonyl chloride | 36 mmol, 6.89 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-[(4-methylphenyl)sulfonyl]-1H-pyrazole | 4.9 g, 76% | CC1=CC=C(C=C1)S(=O)(=O)N1N=CC=C1 | C10H10N2O2S
